US05981533
4-Cyano-5-(dimethylamino-methyleneamino)-3-(4-dimethylamino-phenylamino)-pyrazole
A suspension of 10 g (41.3 mmol) of 5-amino-4-cyano-3-(4-dimethylamino-phenylamino)-pyrazole [for preparation see: Arch.Pharm.(Weinheim) 326, 245 (1993)] in 8.75 ml (49.5 mmol) of N,N-dimethylformamide diethyl acetal (97%) and 200 ml of toluene is heated under reflux for 1 hour. The reaction mixture is then cooled to approx. 30° C. and filtered and the filter residue is washed with toluene, yielding the title compound; m.p. 281-282° C. (decomp.).

reactant | 5-amino-4-cyano-3-(4-dimethylamino-phenylamino)-pyrazole | 41.3 mmol, 10 g | NC1=C(C(=NN1)NC1=CC=C(C=C1)N(C)C)C#N | C12H14N6
reactant | N,N-dimethylformamide diethyl acetal | 49.5 mmol, 8.75 ml | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Cyano-5-(dimethylamino-methyleneamino)-3-(4-dimethylamino-phenylamino)-pyrazole | C(#N)C=1C(=NNC1N=CN(C)C)NC1=CC=C(C=C1)N(C)C | C15H19N7
